US08008332B2
Compound 1: 2-(2H-indazol-2-yl)-4-methylpentanoic acid
Referring to Scheme 1, a mixture of indazole (450 mg, 3.86 mmol) and 2-bromo-4-methylpentanoic acid (1.5 eq.) was heated to 160° C. for 4 hours. The mixture was cooled, diluted with water, extracted by EtOAc, and dried over MgSO4. The solvent was then removed to give the crude product, which was used for the next step without further purification. [M+H] calc'd for C14H16N2O4, 233. found, 233.

reactant | indazole | 3.86 mmol, 450 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | 2-bromo-4-methylpentanoic acid | 1.5 eq. | BrC(C(=O)O)CC(C)C | C6H11BrO2
solvent | water | O | H2O
product | 2-(2H-indazol-2-yl)-4-methylpentanoic acid | N=1N(C=C2C=CC=CC12)C(C(=O)O)CC(C)C | C13H16N2O2
